US07935700B2
(237-1) Synthesis of 2-bromo-5-ethoxycarbonylthiophene
2-Bromo-5-thiophenecarboxylic acid (500 mg) was dissolved in ethanol (5 mL), conc. sulfuric acid (50 μL) was added and the mixture was heated under reflux for 4 hrs. Conc. sulfuric acid (50 μL) was further added and the mixture was heated under reflux for 5 hrs. Then, the mixture was allowed to return to room temperature. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography using a mixed solvent of ethyl acetate and hexane as an eluent. The solvent was evaporated from the eluent to give the title compound (500 mg) as a yellow oil.

reactant | 2-Bromo-5-thiophenecarboxylic acid | 500 mg | BrC=1SC(=CC1)C(=O)O | C5H3BrO2S
reactant | sulfuric acid | 50 μL | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 50 μL | S(O)(O)(=O)=O | H2O4S
reactant | Water | O | H2O
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | 2-bromo-5-ethoxycarbonylthiophene | 500 mg | BrC=1SC(=CC1)C(=O)OCC | C7H7BrO2S
